US08536183B2
4-{5-[(4-{[4-(Trifluoromethyl)phenyl]sulfonyl}-1-piperazinyl)carbonyl]-2-pyridinyl}morpholine
To a solution of 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine (Description 1) (80 mg, 0.272 mmol) in DMF (5 ml) were added 6-(4-morpholinyl)-3-pyridinecarboxylic acid (56.6 mg, 0.272 mmol), HOBT.H2O (41.6 mg, 0.272 mmol), HBTU (103 mg, 0.272 mmol) and DIPEA (0.142 ml, 0.816 mmol) and the reaction mixture was stirred at room temperature for 2 h. The DMF was evaporated in vacuo then 5 ml of DCM were added and washed with saturated aqueous NaHCO3 solution (5 ml), dried on a phase separation cartridge and evaporated in vacuo. The crude material was dissolved in MeCN/DMSO 1:1 and purified by MDAP. The desired fractions were collected and concentrated under vacuo giving the title compound (103 mg).

reactant | 1-{[4-(trifluoromethyl)phenyl]sulfonyl}piperazine | 0.272 mmol, 80 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCNCC1)(F)F | C11H13F3N2O2S
reactant | 6-(4-morpholinyl)-3-pyridinecarboxylic acid | 0.272 mmol, 56.6 mg | N1(CCOCC1)C1=CC=C(C=N1)C(=O)O | C10H12N2O3
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.272 mmol, 41.6 mg | O | H2O
reactant | HBTU | 0.272 mmol, 103 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.816 mmol, 0.142 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{5-[(4-{[4-(Trifluoromethyl)phenyl]sulfonyl}-1-piperazinyl)carbonyl]-2-pyridinyl}morpholine | 103 mg | FC(C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C=1C=CC(=NC1)N1CCOCC1)(F)F | C21H23F3N4O4S
